US07442713B2
100 ml of HCl 10% are added to dimethyl 2-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetylamino}pentanedioate (0.8 mmol/0.400 g) and the mixture is stirred at room temperature for 6 h. The mixture is then slowly neutralized using 2N NaOH, resulting in the precipitation of 1-hydrogen 5-methyl 2-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetylamino}pentanedioate as a yellowish crystalline powder. The precipitate is filtered off with suction and washed with a little ice-cold water and dried over P2O5.

reactant | dimethyl 2-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetylamino}pentanedioate | 0.8 mmol, 0.400 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCC(=O)NC(C(=O)OC)CCC(=O)OC | C24H25FN4O5S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl | 100 ml | Cl | ClH
product | 1-hydrogen 5-methyl 2-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetylamino}pentanedioate | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCC(=O)NC(C(=O)O)CCC(=O)OC | C23H23FN4O5S
